US05849911
17d) 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino6-phenyl-2-azahexane
0.94 9 (1.5 mmol) of 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane and 18 ml of formic acid are stirred at room temperature for 6 hours and worked up analogously to Example 2d to form the title compound: FAB MS (M+H)+ =526.

reactant | 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC(=O)OC(C)(C)C | C32H43N5O6S
solvent | formic acid | 18 ml | C(=O)O | CH2O2
product | 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | C27H35N5O4S
